US07425568B2
b) 5-Amino-2-(2-phenylchroman-6-yloxy)-aniline
2,4-Dinitro-1-(2-phenylchroman-6-yloxy)-benzene (0.04 g) was dissolved in 12 ml of glacial acetic acid and zinc (0.131 g) was added. The reaction stirred at room temperature for 30 minutes. Workup was done as described for 2-(2-phenylchroman-6-yloxy)-aniline in Example 29. Product was purified by column chromatography (CH2Cl2:Et3N /96:4 as the eluant). 1H-NMR (300 MHz; d6-DMSO): δ 7.48-7.28 (m, 5H), 6.74 (d, 1H, J=8.8 Hz), 6.63 (dd, 1H, J=8.8 Hz, J=2.9 Hz), 6.57 (d, 1H, J=2.8 Hz), 6.49 (d, 1H, J=8.4 Hz), 6.02 (d, 1H, J=2.6 Hz), 5.81 (dd, 1H, J=8.4 Hz, J=2.6 Hz), 5.03 (dd, 1H, J=10.0 Hz, J=2.3 Hz), 4.62 (s, 2H), 4.48 (s, 2H), 2.99-2.82 (m, 1H), 2.71-2.57 (m, 1H), 2.20-2.06 (m, 1H), 2.03-1.86 (m, 1H)

reactant | 2,4-Dinitro-1-(2-phenylchroman-6-yloxy)-benzene | 0.04 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C21H16N2O6
reactant | 2-(2-phenylchroman-6-yloxy)-aniline | C1(=CC=CC=C1)C1OC2=CC=C(C=C2CC1)OC1=C(N)C=CC=C1 | C21H19NO2
solvent | acetic acid | 12 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 0.131 g | [Zn] | Zn
product | 5-Amino-2-(2-phenylchroman-6-yloxy)-aniline | NC=1C=CC(=C(N)C1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C21H20N2O2
